US04096267
Step B: 2-Methyl-2-(2-thienyl)-5-methoxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (5.06 g., 0.045 mole) dissolved in tert-butanol (100 ml.) is added to a refluxing solution of 2-methyl-5-methoxy-6,7-dichloro-1-indanone prepared by the method described in Example 5, Steps A to D, (7.35 g., 0.03 mole) in tert-butanol (150 ml.)-benzene (150 ml.), refluxing is continued for 3 hours under nitrogen, then the mixture is cooled slightly and solid dithienyliodonium chloride (16.5 g., 0.05 mole) is added in one portion. Heating at reflux is continued for 2 hours. The reaction mixture is cooled to 25° C., 100 ml. water added, and the mixture concentrated to dryness in vacuo to give 3.85 g. of 2-methyl-2-(2-thienyl)-5-methoxy-6,7-dichloro-1-indanone which melts at 145°-146.5° C. after trituration with ether and crystallization from benzene:hexane 1:4.

reactant | Potassium tert-butoxide | 0.045 mole, 5.06 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | dithienyliodonium chloride | 0.05 mole, 16.5 g | [Cl-].S1C(=CC=C1)[I+]C=1SC=CC1
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 2-Methyl-2-(2-thienyl)-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C=1SC=CC1 | C15H12Cl2O2S
